US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-((2-piperidinoethyl)sulfinyl)nonyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran (126 mg, 0.24 mmol) was dissolved in methanol (5 ml)and water (1.2 ml), and NaIO4 (62 mg, 0.29 mmol) was added thereto. The reaction was stirred for 4 hours at room temperature and then filtered. The filtrate was concentrated and the residue was purified with flash column chromatography (dichloromethane:ethanol=13:1→10:1) to obtain 96 mg (yield: 74%) of the title compound as a white foamy solid.

reactant | (3RS,4RS)-7-Hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(2-piperidinoethylthio)nonyl]-2,3-dihydro-4H-benzopyran | 0.24 mmol, 126 mg | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCSCCN2CCCCC2)C=C1 | C32H47NO3S
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 1.2 ml | O | H2O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-((2-piperidinoethyl)sulfinyl)nonyl]-2,3-dihydro-4H-benzopyran | 96 mg, yield: 74% | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCS(=O)CCN2CCCCC2)C=C1 | C32H47NO4S
